US08835626B2
1st step: 3-[(Z)-1-eth-(E)-ylidenepenta-2,4-dienyl]-8-phenyl-11,12-dihydro-11,12-diazaindeno[2,1-a]fluorene
13.3 g (110.0 mmol) of phenylboronic acid, 20 g (50 mmol) of 3,8-dibromo-11,12-dihydroindolo[2,3-a]carbazole and 44.6 g (210.0 mmol) of tripotassium phosphate are suspended in 500 ml of toluene, 500 ml of dioxane and 500 ml of water. 913 mg (3.0 mmol) of tri-o-tolylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to this suspension, and the reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, filtered through silica gel, washed three times with 200 ml of water and subsequently evaporated to dryness. The residue is recrystallised from toluene and from dichloromethane/isopropanol. The yield is 16 g (39 mmol), corresponding to 80% of theory.

reactant | phenylboronic acid | 110.0 mmol, 13.3 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3,8-dibromo-11,12-dihydroindolo[2,3-a]carbazole | 50 mmol, 20 g | BrC1=CC2=C(C=C1)NC=1C2=CC=C2C3=CC(=CC=C3NC12)Br | C18H10Br2N2
reactant | tripotassium phosphate | 210.0 mmol, 44.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-o-tolylphosphine | 3.0 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 500 ml | O | H2O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 3-[(Z)-1-eth-(E)-ylidenepenta-2,4-dienyl]-8-phenyl-11,12-dihydro-11,12-diazaindeno[2,1-a]fluorene | C(/C)=C(/C=C\C=C)\C1=CC=C2NC=3C(=CC=C4C5=CC(=CC=C5NC34)C3=CC=CC=C3)C2=C1 | C31H24N2
